US06528525B1
2-(4-Isopropylphenoxy)-3-[4-[2-(2-phenylpyridine-5-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 7-95 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(2-phenylpyridine-5-carbonylamino)ethoxy]phenyl]propionate (169 mg), which is the product of Example 96, was reacted with aqueous sodium hydroxide solution (1N, 0.60 ml) and the reaction mixture was treated to give the title compound (126 mg) as colorless crystals.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(2-phenylpyridine-5-carbonylamino)ethoxy]phenyl]propionate | 169 mg | C(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=CC=C2)C=C1 | C34H36N2O5
reactant | sodium hydroxide | 1N, 0.60 ml | [OH-].[Na+]
product | 2-(4-Isopropylphenoxy)-3-[4-[2-(2-phenylpyridine-5-carbonylamino)ethoxy]phenyl]propionic acid | 126 mg | C(C)(C)C1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=CC=C2)C=C1 | C32H32N2O5
